US03959322
Dissolve 13β-ethyl-3-hydroxygona-1,3,5(10),8,14-pentaen-17-one (2.45 g) in pyridine (7 cc) and acetic anhydride (4 cc) and allow to stand at room temperature for 16 hours. Remove the solvent under reduced pressure, add ethanol (20 cc) and again evaporate the solvent. Recrystallize the residue from ethanol to give a red crystalline solid, m.p. 122°-124°. Filter the solid through `Florisil` (100 g) with benzene, evaporate the solvent and recrystallize the product from ethanol to obtain 13β-ethyl-3-acetoxygona-1,3,5(10),8,14-pentaen-17-one, m.p. 129°-130°C; ultraviolet absorption peak at 306 mμ (ε25,500), infrared absorption peaks at 5.78 μ, 8.27 μ, and 9.85 μ.

reactant | 13β-ethyl-3-hydroxygona-1,3,5(10),8,14-pentaen-17-one | 2.45 g | C(C)[C@]12C(CC=C2C2=C(CC1)C=1C=CC(=CC1CC2)O)=O | C19H20O2
reactant | acetic anhydride | 4 cc | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 7 cc | N1=CC=CC=C1 | C5H5N
product | 13β-ethyl-3-acetoxygona-1,3,5(10),8,14-pentaen-17-one | C(C)[C@]12C(CC=C2C2=C(CC1)C=1C=CC(=CC1CC2)OC(C)=O)=O | C21H22O3
